US04197296
11α-N,N-Dimethylamino-16β,17β-epoxy-2β-ethoxy-5α-androstan-3α-ol
A solution of 17α-bromo-11α-N,N-dimethylamino-2β-ethoxy-5α-androstane-3α,16β-diol (212 mg) in methanol (33 ml) containing water (1.2 ml) was treated with a 40% solution of potassium carbonate (0.66 ml) and the mixture was refluxed. After 1 hour most of the solvent was evaporated and the residue was partitioned between ethyl acetate and water. The washed and dried (Na2SO4) organic layer was evaporated and the residue was purified by preparative thin layer chromatography over silica (ethyl acetate--petroleum ether 1:1) and crystallization from aqueous methanol to give the title compound (80 mg) m.p. 149°-151°, [α]D +6.7°.

reactant | 17α-bromo-11α-N,N-dimethylamino-2β-ethoxy-5α-androstane-3α,16β-diol | 212 mg | Br[C@H]1[C@]2(C)[C@@H](C[C@@H]1O)[C@@H]1CC[C@H]3C[C@@H]([C@H](C[C@]3(C)[C@H]1[C@@H](C2)N(C)C)OCC)O | C23H40BrNO3
reactant | water | 1.2 ml | O | H2O
reactant | potassium carbonate | 0.66 ml | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 33 ml | CO | CH4O
product | 11α-N,N-Dimethylamino-16β,17β-epoxy-2β-ethoxy-5α-androstan-3α-ol | 80 mg | CN(C)[C@H]1[C@@H]2[C@]3(C[C@@H]([C@H](C[C@@H]3CC[C@H]2[C@@H]2C[C@H]3[C@@H]([C@@]2(C)C1)O3)O)OCC)C | C23H39NO3
